US07018988B2
(2S,4EZ)-1-acetyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(2-hydroxy-2-phenylethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, acetyl chloride, and (1RS)-2-amino-1-phenylethanol the title compound was obtained in 48% purity by LC/MS. MS(ESI+): m/z=464.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | (1RS)-2-amino-1-phenylethanol | NCC(O)C1=CC=CC=C1 | C8H11NO
product | (2S,4EZ)-1-acetyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(2-hydroxy-2-phenylethyl)-2-pyrrolidinecarboxamide | C(C)(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)NCC(C1=CC=CC=C1)O | C22H23Cl2N3O4
